US08729263B2
Synthesis of 7-hydroxy-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-2-naphthonitrile
A degassed mixture of 7-hydroxy-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-yl trifluoromethanesulfonate (21 mg, 0.033 mmol), zinc cyanide (5.00 mg, 0.043 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.8 mg, 1.6 μmol) in DMF (0.8 mL) was heated at 120° C. under microwave irradiation for 1 h. The reaction mixture was filtered through celite, washed with EtOAc and concentrated. The residue was loaded on a 1 g SCX column, washed with MeOH, and eluted with 2 M NH3 in MeOH. The product-containing fractions were concentrated. The crude product was purified via HPLC to give the title compound as a light yellow solid (6.9 mg, 50% yield). LCMS Rt=0.55 min [Method Q], MS (M+1)=416.3. 1H NMR (METHANOL-d4) δ 8.26 (s, 1H), 8.16 (d, J=9.6 Hz, 1H), 8.04 (s, 1H), 7.86 (d, J=8.6 Hz, 1H), 7.32 (dd, J=8.6, 1.5 Hz, 1H), 7.27 (s, 1H), 7.22 (d, J=9.6 Hz, 1H), 5.05 (t, J=11.9 Hz, 1H), 2.94 (s, 3H), 1.61 (dd, J=13.1, 3.5 Hz, 2H), 1.49 (t, J=12.4 Hz, 2H), 1.30 (s, 6H), 1.14 (s, 6H).

reactant | 7-hydroxy-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-yl trifluoromethanesulfonate | 0.033 mmol, 21 mg | FC(S(=O)(=O)OC1=CC2=CC(=C(C=C2C=C1)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)O)(F)F | C25H29F3N4O4S
reactant | DMF | 0.8 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.043 mmol, 5.00 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.6 μmol, 1.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-hydroxy-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-2-naphthonitrile | 6.9 mg, 50% yield | OC1=C(C=C2C=CC(=CC2=C1)C#N)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C25H29N5O
